US04287337
To 22 g of 5-bromo-2,2,4,4-tetramethyl pentane nitrile in 60 ml of anhydrous ether, 0.1 mol of methyl lithium in solution in 200 ml of anhydrous ether is added drop by drop in an inert atmosphere. The reaction medium is maintained between 0° and 5° C. during the addition and then for an additional 30 minutes and then kept at room temperature for 4 hours. After hydrolysis, the aqueous phase is extracted with ether. The 2,3,3,5,5-pentamethyl-3,4,5,6-tetrahydropyridine is then isolated by distillation. There is obtained a colorless liquid of B.P.10 -2 =43° C. in a yield of 70% of Δ1-piperideine.

reactant | 5-bromo-2,2,4,4-tetramethyl pentane nitrile | 22 g | BrCC(CC(C#N)(C)C)(C)C | C9H16BrN
reactant | methyl lithium | 0.1 mol | C[Li]
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,3,3,5,5-pentamethyl-3,4,5,6-tetrahydropyridine | CC1=NCC(CC1(C)C)(C)C | C10H19N
